US07601714B2
N4-[(trans-4-{[(1,5-dimethyl-1H-pyrazol-4-yl)methyl]amino}cyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
A mixture of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine (100 mg, 0.23 mmol) and 1,5-dimethyl-1H-pyrazole-4-carbaldehyde (23 mg, 0.19 mmol) in CH2Cl2 (15 mL) was stirred at room temperature for 1 h. NaBH(OAc)3 (200 mg, 0.95 mmol) was then added to the reaction mixture and stirred for another 16 h. The reaction mixture was diluted with 1M Na2CO3 to pH 9-10 and the organic phase was separated. The aqueous phase was extracted with CH2Cl2. The combined organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 98:2 CH2Cl2:MeOH as an eluent to afford 54 mg (52%) of the title compound as a pale yellow foam, m/z 549.7 [M+1]+

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine | 0.23 mmol, 100 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | 1,5-dimethyl-1H-pyrazole-4-carbaldehyde | 0.19 mmol, 23 mg | CN1N=CC(=C1C)C=O | C6H8N2O
reactant | NaBH(OAc)3 | 0.95 mmol, 200 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
product | N4-[(trans-4-{[(1,5-dimethyl-1H-pyrazol-4-yl)methyl]amino}cyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 54 mg, 52% | CN1N=CC(=C1C)CN[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C25H31F3N8O3
